US09034880B2
Preparation of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(2,2-dimethylpiperidin-1-yl)ethanone (Compound 294)
The title compound is prepared by following Method 8 by using 2-bromo-1-(2,2-dimethylpiperidin-1-yl)ethanone, 4-chlorophenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone.

reactant | 2-bromo-1-(2,2-dimethylpiperidin-1-yl)ethanone | BrCC(=O)N1C(CCCC1)(C)C | C9H16BrNO
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(2,2-dimethylpiperidin-1-yl)ethanone | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1C(CCCC1)(C)C)CCN(C3)C | C21H28ClN3O
